US08304036B2
1.0 g (2.69 mmol) of 2-(propenyl)-5-[4-(4-propylcyclohexyl)phenyl]selenophene is hydrogenated in 10 ml of ethyl acetate, in the presence of Pd/C (5% of Pd) at atmospheric pressure and RT. The reaction soln. is filtered and concentrated to dryness, and the crude product is purified by column chromatography (SiO2, n-heptane→n-heptane:EtOAc=20:1). The further purification is carried out by recrystallisation from n-heptane. 2-Propyl-5-[4-(4-propylcyclohexyl)phenyl]selenophene is obtained as a colourless solid.

reactant | 2-(propenyl)-5-[4-(4-propylcyclohexyl)phenyl]selenophene | 2.69 mmol, 1.0 g | C(=CC)C=1[Se]C(=CC1)C1=CC=C(C=C1)C1CCC(CC1)CCC | C22H28Se
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 2-Propyl-5-[4-(4-propylcyclohexyl)phenyl]selenophene | C(CC)C=1[Se]C(=CC1)C1=CC=C(C=C1)C1CCC(CC1)CCC | C22H30Se
